US08067408B2
N-[(5-Chloro-3′-{[(3S)-3-methyl-1-piperazinyl]methyl}-3-biphenylyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-1,3-benzenedicarboxamide
1,1-Dimethylethyl (2S)-2-methyl-4-{[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]methyl}-1-piperazinecarboxylate (24.98 mg, 0.060 mmol), N-[(3-bromo-5-chlorophenyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-1,3-benzenedicarboxamide (39.2 mg, 0.06 mmol), potassium carbonate (0.025 g, 0.18 mmol), and Pd(Ph3P)4 (3.47 mg, 3.00 μmol) were added to a 0.5-2 mL Biotage microwave vial in 1,4-dioxane (1.5 mL) and water (0.5 mL). The vial was capped and the mixture microwaved at normal power in the SmithCreator microwave at 100° C. for 15 min. LC-MS indicated complete reaction. The crude product was partitioned between EtOAc (30 mL) and water (10 mL). The phases were separated, and the organic washed with brine, dried over anhydrous Na2SO4 filtered and concentrated to give the protected product. This was taken up in DCM (1.8 mL) and treated with trifluoroacetic acid (0.2 mL). The mixture was stirred under argon for 5 h. LC-MS indicated complete reaction. Solvents were pumped off and the residue taken up in DMSO and purified on the Gilson with the TFA system. This was converted to the free base by taking the residue up in EtOAc (30 mL) and 2.5 N NaOH (5 mL). The phases were separated and the organic phase washed with 2.5 N NaOH (3×5 mL) and then with brine (2×5 mL). The organic phase was dried over anhydrous Na2SO4, filtered and concentrated to give the title compound as a white solid. LC-MS m/z 763.1 (M+H)+, 1.67 min (ret time); mp 119-121° C. Analytical HPLC shows 100% purity, (ret time 10.534 min).

reactant | 1,1-Dimethylethyl (2S)-2-methyl-4-{[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]methyl}-1-piperazinecarboxylate | 0.060 mmol, 24.98 mg | C[C@@H]1N(CCN(C1)CC1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C)C(=O)OC(C)(C)C | C23H37BN2O4
reactant | N-[(3-bromo-5-chlorophenyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-1,3-benzenedicarboxamide | 0.06 mmol, 39.2 mg | BrC=1C=C(C=C(C1)Cl)CNC(=O)C1=CC(=CC=C1)C(=O)NCC=1C(=C2C(=NC1CC)N(N=C2)CC)NC2CCOCC2 | C31H34BrClN6O3
reactant | potassium carbonate | 0.18 mmol, 0.025 g | C([O-])([O-])=O.[K+].[K+]
reactant | trifluoroacetic acid | 0.2 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | 1,4-dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.5 mL | O | H2O
solvent | DCM | 1.8 mL | C(Cl)Cl | CH2Cl2
solvent | DMSO | CS(=O)C | C2H6OS
catalyst | Pd(Ph3P)4 | 3.00 μmol, 3.47 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-[(5-Chloro-3′-{[(3S)-3-methyl-1-piperazinyl]methyl}-3-biphenylyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-1,3-benzenedicarboxamide | ClC=1C=C(C=C(C1)C1=CC(=CC=C1)CN1C[C@@H](NCC1)C)CNC(=O)C1=CC(=CC=C1)C(=O)NCC=1C(=C2C(=NC1CC)N(N=C2)CC)NC2CCOCC2 | C43H51ClN8O3
